US05883106
B. 4-Cyano-4-(5-fluoro-3-methylthiophenyl)-3,4,5,6-tetrahydro-2H-pyran
Methanethiol was bubbled into a stirred suspension of sodium hydride (65% w/w dispersion in mineral oil, 273 mg, 7.4 mmol) in DMF (10 ml) until a clear solution was obtained. 4-Cyano-4-(3,5-difluorophenyl)-3,4,5,6-tetrahydro-2H-pyran (1.65 g, 7.4 mmol) was added and the resulting mixture was heated at 100° C. for 22 h, cooled and poured into water (100 ml). The mixture was extracted with Et2O (100 ml) and extract washed with water (100 ml), brine (100 ml) and dried (MgSO4). Removal of solvent gave 1.87 g (quant.) of the titled compound as a tan oil.

reactant | Methanethiol | CS | CH4S
reactant | sodium hydride | 7.4 mmol, 273 mg | [H-].[Na+]
reactant | 4-Cyano-4-(3,5-difluorophenyl)-3,4,5,6-tetrahydro-2H-pyran | 7.4 mmol, 1.65 g | C(#N)C1(CCOCC1)C1=CC(=CC(=C1)F)F | C12H11F2NO
reactant | water | 100 ml | O | H2O
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | 4-Cyano-4-(5-fluoro-3-methylthiophenyl)-3,4,5,6-tetrahydro-2H-pyran | C(#N)C1(CCOCC1)C1=CC(=CC(=C1)F)SC | C13H14FNOS
